US04939261
The solution of 2.37 g of N-[4-ethoxycarbonyl-(R*,R*)-2,4-dibenzylbutyryl]-3-aminopropionic acid, 0.61 g of 3-pyridylcarbinol and 1.15 g of dicyclohexylcarbodiimide in 25 ml of methylene chloride is stirred at room temperature for two days. The solid is removed, and the filtrate is diluted with 150 ml of ether and extracted with 0.5N hydrochloric acid. The acidic aqueous layer is separated, basified and extracted with ethyl acetate. The organic layer is washed with saturated sodium chloride, dried over magnesium sulfate, filtered, concentrated and flash chromatographed on silica gel eluting with ethyl acetate:ethanol (9:1) to yield 3-pyridylmethyl N-[4-ethoxycarbonyl-(R*,R*)-2,4-dibenzylbutyryl]-3-aminopropionate as an oil; NMR (CDCl3) δ 8.70 (m, 2H), 7.77 (m, 1H), 7.28 (m, 11H), 5.56 (t, 1H, J=7 Hz), 5.12 (s, 2H), 4.03 (q, 2H, J=8 Hz), 1.08 (t, 3H, J=8 Hz).

reactant | N-[4-ethoxycarbonyl-(R*,R*)-2,4-dibenzylbutyryl]-3-aminopropionic acid | 2.37 g | C(C)OC(=O)[C@H](C[C@@H](C(=O)NCCC(=O)O)CC1=CC=CC=C1)CC1=CC=CC=C1 | C24H29NO5
reactant | 3-pyridylcarbinol | 0.61 g | N1=CC(=CC=C1)CO | C6H7NO
reactant | dicyclohexylcarbodiimide | 1.15 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | methylene chloride | 25 ml | C(Cl)Cl | CH2Cl2
product | 3-pyridylmethyl N-[4-ethoxycarbonyl-(R*,R*)-2,4-dibenzylbutyryl]-3-aminopropionate | C(C)OC(=O)[C@H](C[C@@H](C(=O)NCCC(=O)OCC=1C=NC=CC1)CC1=CC=CC=C1)CC1=CC=CC=C1 | C30H34N2O5
